US08685959B2
Synthesis of ((R)-4-(1-((R)-1-(4-chloro-2-fluorophenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 15)
To a stirred solution of 1-((R)-1-(4-chloro-2-fluorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d]imidazole (0.044 g, 0.11 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.047 g, 0.22 mmol) in dichloromethane (1 mL) was added HATU (0.084 g, 0.22 mmol) and Et3N (0.10 mL, 0.72 mmol). The reaction mixture was stirred at room temperature for 2 h, and diluted with ethyl acetate. The mixture was washed with deionized water, and the aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 50% ethyl acetate in hexanes) to afford the desired product (0.018 g, 0.031 mmol, 28%).

reactant | 1-((R)-1-(4-chloro-2-fluorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-benzo[d]imidazole | 0.11 mmol, 0.044 g | ClC1=CC(=C(C=C1)[C@@H](C)N1C=NC2=C1C=C(C=C2)N2C[C@H](NCC2)C)F | C20H22ClFN4
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.22 mmol, 0.047 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.22 mmol, 0.084 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ((R)-4-(1-((R)-1-(4-chloro-2-fluorophenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.031 mmol, 0.018 g, 28% | ClC1=CC(=C(C=C1)[C@@H](C)N1C=NC2=C1C=C(C=C2)N2C[C@H](N(CC2)C(=O)[C@@H]2NCCC2)C)F | C25H29ClFN5O
